US07115666B2
To a mixture of 3-phenylpropionaldehyde (5.0 g, 37.3 mmol, 1.0 equiv.) and CHCl3 (150 ml) was added N-cyclohexylhydroxylamine (4.30 g, 41.0 mmol, 1.1 equiv) and p-TsOH (few crystals) and the resulting mixture was refluxed under nitrogen for 22 h. Removal of the solvent an oil was obtained which was purified by flash chromatography (hexanes: EtOAc 1:1) to give N-cyclohexyl-C-(2-phenylethyl)nitrone (6.41 g, 74.4%) as a white solid, m.p. 97.2° C.: 1H NMR (CDCl3) δ 7.33–7.19 (m, 5H,), 6.69–6.65 (t, 1H, Ar—H), 3.67–3.56 (m, 1H), 2.91–2.78 (m, 4H), 1.97–1.63 (m, 7H), 1.37–1.10 (m, 3H).

reactant | 3-phenylpropionaldehyde | 37.3 mmol, 5.0 g, 1.0 equiv. | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | N-cyclohexylhydroxylamine | 41.0 mmol, 4.30 g, 1.1 equiv | C1(CCCCC1)NO | C6H13NO
reactant | p-TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | CHCl3 | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | N-cyclohexyl-C-(2-phenylethyl)nitrone | 6.41 g, 74.4% | C1(CCCCC1)[N+](=CCCC1=CC=CC=C1)[O-] | C15H21NO
